US05061706
To a solution of 10.5 g (31.7 mmol) 2-cyano-5-ethoxalylamino-4-nitrobenzotrifluoride in 450 ml ethanol was added 45 ml glacial acetic acid. The mixture was hydrogenated at atm. pressure by using 0.2 g 5% Pd-C as a catalyst. The filtered and evaporated reaction product was recrystallized (ethylacetate-light petroleum) to give 6.91 g (81%) of 7-cyano-1-hydroxy-6-trifluoromethyl-quinoxaline-2,3(1H,4H)-dione. M.p. 180° C. decomp. 1H-NMR (DMSO-d6): 7.93 (1H, s), 7.53 (1H, s). MS (m/e): 271 (M+, 70%).

reactant | 2-cyano-5-ethoxalylamino-4-nitrobenzotrifluoride | 31.7 mmol, 10.5 g | C(#N)C1=C(C=C(C(=C1)[N+](=O)[O-])NC(=O)C(=O)OCC)C(F)(F)F | C12H8F3N3O5
reactant | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 450 ml | C(C)O | C2H6O
catalyst | Pd-C | 0.2 g | [Pd] | Pd
product | 7-cyano-1-hydroxy-6-trifluoromethyl-quinoxaline-2,3(1H,4H)-dione | 6.91 g, 81% | C(#N)C1=C(C=C2NC(C(N(C2=C1)O)=O)=O)C(F)(F)F | C10H4F3N3O3
